US03968116
5-Chloro-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)-pyridine is reacted with methanethiol to obtain 5-(methylthio)-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)pyridine which is subsequently oxidized to obtain the corresponding 5-(methylsulfonyl)-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)-pyridine.

reactant | 5-Chloro-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)-pyridine | ClC1=CC=C2C(=N1)N=C(N2O)C(C(F)(F)F)(F)F | C8H3ClF5N3O
reactant | methanethiol | CS | CH4S
product | 5-(methylthio)-1-hydroxy-2-(pentafluoroethyl)-1H-imidazo(4,5-b)pyridine | CSC1=CC=C2C(=N1)N=C(N2O)C(C(F)(F)F)(F)F | C9H6F5N3OS
